US08604055B2
Step (ix): Synthesis of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-quinolin-4-yl)-bis-cyclopropylmethyl-amine
A mixture of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-quinolin-4-yl)-bis-cyclopropylmethyl-amine (300 mg, 0.52 mmol) and sodium hydride (31 mg, 0.78 mmol) were taken in DMF (10 mL) at 0° C. and stirred for 20 min, then methyl iodide (0.067 mL, 1.04 mmol) was added at that temperature and stirred for 1 h. Water (20 mL) was added to the reaction mixture and extracted with ethyl acetate (100 mL×3) and the organic layer was washed with water (75 mL). Drying over sodium sulfate and concentration under vacuum yielded the crude product that was purified by column chromatography using 230-400 mesh silica gel eluting with 5% ethyl acetate in petroleum ether to afford 0.107 gm (yield: 35%) of yellow colored gummy mass.

reactant | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-quinolin-4-yl)-bis-cyclopropylmethyl-amine | 0.52 mmol, 300 mg | FC(C=1C=C(CN(C=2N=NNN2)CC=2C=NC3=CC=CC=C3C2N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C28H27F6N7
reactant | sodium hydride | 0.78 mmol, 31 mg | [H-].[Na+]
reactant | methyl iodide | 1.04 mmol, 0.067 mL | CI | CH3I
reactant | Water | 20 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-quinolin-4-yl)-bis-cyclopropylmethyl-amine | yield: 35% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C=NC3=CC=CC=C3C2N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C29H29F6N7
